US06143751
b) (±)-1-(2,3-Dihydro-benzo[1,4]dioxin-6-yloxy)-4-pyridin-3-yl-butan-2-ol
A solution of benzo-1,4-dioxan-6-ol (0.15 g; Tetrahedron, 1995, 3197) in ethanol (20 ml) at room temperature was treated with a solution of sodium hydroxide (0.044 g) in water (5 ml) and was then heated at reflux. A solution of (±)-α-(chloromethyl)-3-pyridinepropanol (1.0 g) in ethanol (5 ml) was added dropwise to the latter and the resulting mixture heated at reflux for 1 hour. The reaction mixture was cooled and then water was added. The organic component was extracted with dichloromethane, the combined extracts dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with ethyl acetate to give an oil (0.100 g).

reactant | benzo-1,4-dioxan-6-ol | 0.15 g | O1CCOC2=C1C=CC(=C2)O | C8H8O3
reactant | sodium hydroxide | 0.044 g | [OH-].[Na+]
reactant | (±)-α-(chloromethyl)-3-pyridinepropanol | 1.0 g | ClCC(CCC=1C=NC=CC1)O | C9H12ClNO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (±)-1-(2,3-Dihydro-benzo[1,4]dioxin-6-yloxy)-4-pyridin-3-yl-butan-2-ol | 0.100 g | O1CCOC2=C1C=CC(=C2)OCC(CCC=2C=NC=CC2)O | C17H19NO4
